US06297258B1
6-(4-Chlorobutylamino)-4-(3-chloro-4-fluorophenyamino)-7-methoxy-3-quinolinecarbonitrile
To a solution of 1.12 g of 4-chlorobutanal and 5.3 ml of 3M sulfuric acid in 11 ml of tetrahydrofuran, at 0° C., was added an solution of 2.0 g of 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-3-quinolinecarbonitrile in 40 ml of dimethylforamide. To this was added portionwise 0.4 g of sodium borohydride. After 1 hr another 1.0 g of aldehyde, 10 ml of dimethylforamide, and 5 ml of 3M sulfuric acid was added followed by the portionwise addition of 0.8 g of sodium borohydride. After 2 hrs, the mixture was poured into water and the Ph was adjusted to 9. The mixture was extracted with ethyl acetate several times. The organic solution was dried over magnesium sulfate and the solvent was removed giving the title compound as an oil which was used without additional purification.

reactant | 4-chlorobutanal | 1.12 g | ClCCCC=O | C4H7ClO
reactant | sulfuric acid | 3M, 5.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 6-amino-4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-3-quinolinecarbonitrile | 2.0 g | NC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)F)Cl | C17H12ClFN4O
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | sulfuric acid | 3M, 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium borohydride | 0.8 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | dimethylforamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylforamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-(4-Chlorobutylamino)-4-(3-chloro-4-fluorophenyamino)-7-methoxy-3-quinolinecarbonitrile | ClCCCCNC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=C(C=C1)F)Cl | C21H19Cl2FN4O
